US07884109B2
2-(1H-benzo[d]imidazol-1-yl)-9-(4,5,6,7-tetrahydro-1H-indol-4-yl)-7H-purin-8(9H)-one.
To a solution of 2-(1H-benzo[d]imidazol-1-yl)-9-(1-(phenylsulfonyl)-4,5,6,7-tetrahydro-1H-indol-4-yl)-7H-purin-8(9H)-one (50 mg) in MeOH (1 mL) was added 4 N NaOH (1 mL), and the mixture was refluxed overnight and cooled. Volatiles were removed under reduced pressure, and the resultant neutralized with 4 N HCl. The white precipitate was filtered, washed with a small amount of water, and dried in vacuo to afford 36 mg of the title compound. 1H NMR (d6-DMSO) δ 11.6 (s, 1H), 10.7 (s, 1H), 8.86 (s, 1H), 8.27 (s, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.58 (d, J=8.1 Hz, 1H), 7.33 (m, 2H), 6.53 (t, J=2.4 Hz, 1H), 5.64 (t, J=2.4 Hz, 1H), 5.54 (m, 1H), 2.72 (m, 2H), 2.30 (m, 1H), 2.07 (m, 2H), 1.84 (m, 1H).

reactant | 2-(1H-benzo[d]imidazol-1-yl)-9-(1-(phenylsulfonyl)-4,5,6,7-tetrahydro-1H-indol-4-yl)-7H-purin-8(9H)-one | 50 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C1NC(N(C1=N2)C2C=1C=CN(C1CCC2)S(=O)(=O)C2=CC=CC=C2)=O | C26H21N7O3S
reactant | NaOH | 4 N, 1 mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 2-(1H-benzo[d]imidazol-1-yl)-9-(4,5,6,7-tetrahydro-1H-indol-4-yl)-7H-purin-8(9H)-one | 36 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C1NC(N(C1=N2)C2C=1C=CNC1CCC2)=O | C20H17N7O
